US04113729
(-)-3-Phenoxy-N-phenethylmorphinan
To the above base, 3.2 g. (0.007 mol) in ether, a solution of 0.8 g. of oxalic acid in ether was added. The crude oxalate was recrystallized twice from ethanol to give 1.7 g. (39%) pure (-)-3-phenoxy-N-phenethylmorphinan oxalate, m.p. 217°-219°, [α]D25 = -72.17° (c 1.06, MeOH).

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | (-)-3-phenoxy-N-phenethylmorphinan oxalate | C(C(=O)O)(=O)O.O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC3=CC=CC=C3
reactant | MeOH | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | (-)-3-Phenoxy-N-phenethylmorphinan | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC3=CC=CC=C3 | C30H33NO
